US07060827B2
In a like manner to the preparation of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine, 2,4-dichloro-5-fluoropyrimidine and 3-[[4-(ethoxycarbonyl)piperidino]carbonyl]aniline were reacted to provide 2-chloro-N4-[3-[[4-(ethoxycarbonyl)piperidino]carbonyl]phenyl]-5-fluoro-4-pyrimidineamine. LCMS: purity: 96%; MS (m/e): 407(M+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-[[4-(ethoxycarbonyl)piperidino]carbonyl]aniline | C(C)OC(=O)C1CCN(CC1)C(=O)C=1C=C(N)C=CC1 | C15H20N2O3
product | 2-chloro-N4-[3-[[4-(ethoxycarbonyl)piperidino]carbonyl]phenyl]-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)C(=O)N1CCC(CC1)C(=O)OCC)F | C19H20ClFN4O3
